US09447074B2
1-[4-{[(4-ethyl-2-pyridinyl)methyl]oxy}-3-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)phenyl]ethanone
To a solution of 1,1-dimethylethyl 7-(5-acetyl-2-{[(4-ethyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate, (0.217 g) in DCM (3 ml) was added TFA (0.4 ml). This was stirred at room temperature. After completion of reaction by tlc, the reaction mixture was concentrated in vacuo and purified by preparative hplc. Product fractions were concentrated in vacuo and the product obtained was partitioned between DCM and aqueous sodium bicarbonate. The organics were dried over sodium sulphate and concentrated in vacuo to yield the title compound, 0.035 g

reactant | 1,1-dimethylethyl 7-(5-acetyl-2-{[(4-ethyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.217 g | C(C)(=O)C=1C=CC(=C(C1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)OCC1=NC=CC(=C1)CC | C31H36N2O4
reactant | TFA | 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-{[(4-ethyl-2-pyridinyl)methyl]oxy}-3-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)phenyl]ethanone | C(C)C1=CC(=NC=C1)COC1=C(C=C(C=C1)C(C)=O)C1=CC2=C(CCNCC2)C=C1 | C26H28N2O2
